US09079835B2
To a flame-dried round-bottomed flask, evacuated and backfilled with nitrogen (3×), was added 10-chlorodecene (1 equiv, 16 mmol, 2.79 g), methyl acrylate (25 equiv, 395 mmol, 36 mL), and CH2Cl2 (140 mL). Grubbs 2 catalyst (0.031 equiv, 0.48 mmol, 416 mg) was dissolved in CH2Cl2 (15 mL) and added to the reaction mixture in one portion. The reaction was stirred for 4 h, concentrated in vacuo, and purified by flash column chromatography (3% EtOAc/Hex) to afford (E)-methyl 11-chloroundec-2-enoate (3.14 g, 13.6 mmol, 85%). TLC Rf=0.30 (5% EtOAc/Hex); 1HNMR (300 MHz): δ 6.99 (dt, 1H, J=15.6, 7.0 Hz), 5.84 (dt, 1H, J=15.7, 1.5 Hz), 3.75 (s, 3H), 3.55 (t, 2H, J=6.8 Hz), 2.22 (qd, 2H, J=7.3, 1.4 Hz), 1.72-1.85 (m, 2H), 1.26-1.55 (10H); 13CNMR (75 MHz): δ 167.2, 149.6, 120.9, 51.4, 45.1, 32.6, 32.2, 29.2, 29.0, 28.7, 27.9, 26.8; FTIR: 2928, 2856, 1722, 1657, 1435, 1270, 1195, 1174, 1041, 979, 720 cm−1; HRMS-ESI: calc. for C12H21ClNaO2 (M+Na)+: 255.1128. found: 255.1118.

reactant | 10-chlorodecene | 16 mmol, 2.79 g, 1 equiv | ClCCCCCCCCC=C | C10H19Cl
reactant | methyl acrylate | 395 mmol, 36 mL, 25 equiv | C(C=C)(=O)OC | C4H6O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
product | (E)-methyl 11-chloroundec-2-enoate | 13.6 mmol, 3.14 g, 85% | ClCCCCCCCC/C=C/C(=O)OC | C12H21ClO2
